US08445674B2
H) (R)-4-Hydroxy-N,N-dimethyl-2-(7-oxo-[1,4]diazepan-1-yl)-butyramide hydrochloride
A solution of 1.85 g (4.00 mmol) 4-((R)-3-benzyloxy-1-dimethylcarbamoyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester in 57 ml of methanol was treated with a solution of 3.96 ml of 1 M aq. hydrochloric acid solution and 0.20 g of Pd/C (10%) and was stirred over H2-atmosphere for 16 h. After filtration, the solution was evaporated, dissolved in methanol and evaporated (3×), followed with dichloromethane and evaporated (3×) under reduced pressure to yield 1.10 g (99%) of the titled compound as a white foam. MS: 244.1 (MH+).

reactant | 4-((R)-3-benzyloxy-1-dimethylcarbamoyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | 4.00 mmol, 1.85 g | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)[C@H](CCOCC1=CC=CC=C1)C(N(C)C)=O | C26H33N3O5
reactant | hydrochloric acid | 1 M, 3.96 ml | Cl | ClH
solvent | methanol | 57 ml | CO | CH4O
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | (R)-4-Hydroxy-N,N-dimethyl-2-(7-oxo-[1,4]diazepan-1-yl)-butyramide hydrochloride | 1.10 g, 99% | Cl.OCC[C@H](C(=O)N(C)C)N1CCNCCC1=O | InChI=1S/C11H21N3O3.ClH/c1-13(2)11(17)9(4-8-15)14-7-6-12-5-3-10(14)16;/h9,12,15H,3-8H2,1-2H3;1H/t9-;/m1./s1
